US08383821B2
tert-Butyl 4-((3-amino-5-bromobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate.
tert-Butyl 4-((3-bromo-5-nitrobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate (1.36 g, 2.69 mmol) and tin (II) chloride dihydrate (6.48 g, 28.7 mmol) were combined in ethyl acetate (20 mL) and heated at reflux for 4 h. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate (2×), brine (2×), dried over sodium sulfate and concentrated. The crude product was dissolved in tetrahydrofuran (10 mL), cooled to 0° C. and treated with di-tert-butyl carbonate (0.59 g, 2.69 mmol) and 10 N sodium hydroxide (0.65 mL). The reaction was allowed to warm to room temperature overnight. The reaction mixture was diluted with ethyl acetate, washed with water (2×), brine (2×), dried over sodium sulfate and concentrated. Column chromatography on silica gel (30% ethyl acetate/hexanes) gave 0.25 g (19%). LC/MS (HPLC method 3): tR=2.99 min, 477.05 (MH)+.

reactant | tert-Butyl 4-((3-bromo-5-nitrobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | 2.69 mmol, 1.36 g | BrC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C24H29BrN2O5
reactant | tin (II) chloride dihydrate | 28.7 mmol, 6.48 g | O.O.[Sn](Cl)Cl
reactant | di-tert-butyl carbonate | 2.69 mmol, 0.59 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | sodium hydroxide | 10 N, 0.65 mL | [OH-].[Na+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-((3-amino-5-bromobenzyloxy)methyl)-4-phenylpiperidine-1-carboxylate | NC=1C=C(COCC2(CCN(CC2)C(=O)OC(C)(C)C)C2=CC=CC=C2)C=C(C1)Br | C24H31BrN2O3
